US08835472B2
2-Iodo-5-(4-methoxyphenyl)pyrazine
In a light protected flask, 4.10 g (20.4 mmol) 5-(4-methoxyphenyl)-pyrazin-2-amine are added to 140 mL carbon tetrachloride. After cooling down to 0° C. 4.12 mL (34.6 mmol) tert-butyl nitrite and 6.72 g (26.5 mmol) iodine are added sequently. Then cooling is removed and the reaction mixture is stirred at ambient temperature over night. The reaction mixture is diluted with DCM and washed sequently with aq. Na2S2O5 solution and water. The organic layer is dried with MgSO4 and the solvent is removed in vacuo. The residue is triturated with TBME and purified by column chromatography (silica gel, PE/EtOAc 6/4).

reactant | 5-(4-methoxyphenyl)-pyrazin-2-amine | 20.4 mmol, 4.10 g | COC1=CC=C(C=C1)C=1N=CC(=NC1)N | C11H11N3O
reactant | tert-butyl nitrite | 34.6 mmol, 4.12 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | iodine | 26.5 mmol, 6.72 g | II | I2
solvent | carbon tetrachloride | 140 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Iodo-5-(4-methoxyphenyl)pyrazine | IC1=NC=C(N=C1)C1=CC=C(C=C1)OC | C11H9IN2O
